US05589473
2-Hydroxy-4-methoxy-5-methyl-6-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde and (R)-N-[2-mercapto-1-(3-methyl-1,2,4-oxadiazol-5-yl) -ethyl]-acetamide were subjected in an analogous manner to the procedure described in Example 1(g) to yield (R)-N-[2-[6-hydroxy-4-methoxy-3-methyl-2-(3-methyl -1,2,4-oxadiazol-5-yl)benzylsulfanyl]-1-(3-methyl-1,2,4-oxadiazol-5-yl)-ethyl]-acetamide as an oil.

reactant | 2-Hydroxy-4-methoxy-5-methyl-6-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde | OC1=C(C=O)C(=C(C(=C1)OC)C)C1=NC(=NO1)C | C12H12N2O4
reactant | (R)-N-[2-mercapto-1-(3-methyl-1,2,4-oxadiazol-5-yl) -ethyl]-acetamide | SC[C@@H](C1=NC(=NO1)C)NC(C)=O | C7H11N3O2S
product | (R)-N-[2-[6-hydroxy-4-methoxy-3-methyl-2-(3-methyl -1,2,4-oxadiazol-5-yl)benzylsulfanyl]-1-(3-methyl-1,2,4-oxadiazol-5-yl)-ethyl]-acetamide | OC1=CC(=C(C(=C1CSC[C@@H](C1=NC(=NO1)C)NC(C)=O)C1=NC(=NO1)C)C)OC | C19H23N5O5S
